US08053440B2
To a round-bottomed flask were added 2-amino-5-nitro-benzamide (0.681 g, 3.76 mmol), 4-hydroxy-3,5-dimethyl-benzaldehyde (0.565 g, 3.76 mmol), sodium bisulfite (0.747 g, 4.2 mmol), p-toluenesulfonic acid, monohydrate (0.072 g, 0.376 mmol) and N,N-dimethylacetamide (60 mL). The reaction mixture was refluxed at 155° C. for 16 h before being cooled to room temperature. Water was added and the precipitated solid was filtered off, washed with water and methanol to obtain a crude which was purified by column chromatography (silica gel (50 g) employing 1-20% methanol in dichloromethane as eluents, to obtain 2-(4-hydroxy-3,5-dimethyl-phenyl)-6-nitro-3H-quinazolin-4-one (0.220 g, 19%). The compound 2-(4-hydroxy-3,5-dimethyl-phenyl)-6-nitro-3H-quinazolin-4-one (0.220 g, 0.71 mmol) was hydrogenated in dimethyl formamide (20 mL) using palladium on activated carbon (0.076 g, 0.071 mmol) at room temperature for 14 h. The solvent was evaporated and the crude was purified by column chromatography (silica gel 25 g) employing 1-5% methanol in dichloromethane as eluents to obtain 6-amino-2-(4-hydroxy-3,5-dimethyl-phenyl)-3H-quinazolin-4-one (0.132 g). The compound 6-amino-2-(4-hydroxy-3,5-dimethyl-phenyl)-3H-quinazolin-4-one was dissolved in pyridine under nitrogen. Acetic anhydride was added at room temperature and stirred for 4 h. Pyridine was removed and the residue was dried. Methanol was added to the flask and a solution of potassium carbonate in water was added and stirred for 4 h. The solvent was removed, acidified with 1 N hydrochloric acid and the precipitated solid was filtered off and dried to obtain N-(2-(4-hydroxy-3,5-dimethylphenyl)-4-oxo-3,4-dihydroquinazolin-6-yl)acetamide (0.037 g, 17%). Selected data: MS (ES) m/z: 324.1; MP 336.5° C. (decomposed).

reactant | 2-(4-hydroxy-3,5-dimethyl-phenyl)-6-nitro-3H-quinazolin-4-one | 0.71 mmol, 0.220 g | OC1=C(C=C(C=C1C)C1=NC2=CC=C(C=C2C(N1)=O)[N+](=O)[O-])C | C16H13N3O4
solvent | dimethyl formamide | 20 mL | CN(C=O)C | C3H7NO
catalyst | palladium on activated carbon | 0.071 mmol, 0.076 g | [Pd] | Pd
product | 6-amino-2-(4-hydroxy-3,5-dimethyl-phenyl)-3H-quinazolin-4-one | 0.132 g | NC=1C=C2C(NC(=NC2=CC1)C1=CC(=C(C(=C1)C)O)C)=O | C16H15N3O2
